US08383836B2
A mixture of 4-chloroquinoline (486 mg, 3 mmol), acetamide (2.13 g, 36 mmol) and K2CO3 (2.9 g, 21 mmol) was thoroughly vortexed on a mixer and subjected to microwave irradiation at 175° C. for 1 h. The reaction mixture was cooled to room temperature and partitioned between EtOAc and water. The aqueous layer was extracted with EtOAc and the combined organic extracts were washed with water and brine and dried over anhydrous Na2SO4. The solvent was removed in vacuo to yield 4-aminoquinoline as a brown solid (260 mg, 60%). EIMS m/z: 145 ([M+1]+).

reactant | 4-chloroquinoline | 3 mmol, 486 mg | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | acetamide | 36 mmol, 2.13 g | C(C)(=O)N | C2H5NO
reactant | K2CO3 | 21 mmol, 2.9 g | C(=O)([O-])[O-].[K+].[K+]
product | 4-aminoquinoline | 260 mg, 60% | NC1=CC=NC2=CC=CC=C12 | C9H8N2
